US08012981B2
1,1-Dimethylethyl (2S)-4-{[4-(acetylamino)-2-methylphenyl]methyl}-2-methyl-1-piperazinecarboxylate (D53)
N-(4-Formyl-3-methylphenyl)acetamide (D52) (326 mg, 1.8 mmol), 1,1-dimethylethyl (2S)-2-methyl-1-piperazinecarboxylate hydrochloride (436 mg, 1.8 mmol), triethylamine (0.282 ml, 2 mmol) and sodium tri(acetoxy)borohydride (781 mg, 3.7 mmol) were stirred together in 1,2-DCE (15 ml) for 17 h. Saturated aqueous NaHCO3 was added and the reaction mixture stirred for 1 h. The organic layer was separated and washed with water and brine, then dried and concentrated to give the crude product which was purified by chromatography. Elution with 0-100% EtOAc/petroleum ether yielded the title compound as a colourless oil (573 mg). δH (CDCl3, 400 MHz) 7.27 (2H, m), 7.16 (1H, d), 7.11 (1H, br.s), 4.17 (1H, m), 3.78 (1H, m), 3.36 (2H, s), 3.02 (1H, m), 2.70 (1H, m), 2.56 (1H, m), 2.36 (3H, s), 2.17 (4H, m), 1.95 (1H, m), 1.45 (9H, s), 1.18 (3H, d). MH+ 362.3.

reactant | N-(4-Formyl-3-methylphenyl)acetamide | 1.8 mmol, 326 mg | C(=O)C1=C(C=C(C=C1)NC(C)=O)C | C10H11NO2
reactant | 1,1-dimethylethyl (2S)-2-methyl-1-piperazinecarboxylate hydrochloride | 1.8 mmol, 436 mg | Cl.C[C@@H]1N(CCNC1)C(=O)OC(C)(C)C
reactant | triethylamine | 2 mmol, 0.282 ml | C(C)N(CC)CC | C6H15N
reactant | sodium tri(acetoxy)borohydride | 3.7 mmol, 781 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1,2-DCE | 15 ml | ClCCCl | C2H4Cl2
product | 1,1-Dimethylethyl (2S)-4-{[4-(acetylamino)-2-methylphenyl]methyl}-2-methyl-1-piperazinecarboxylate | 573 mg | C(C)(=O)NC1=CC(=C(C=C1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C)C | C20H31N3O3
